US04415569
To a solution of 4.2 g of the 5-cyano-3-phenylindazole in 20 ml of dimethylformamide, 0.8 g of 60% sodium hydride was added, and the mixture was stirred for 10 minutes. The mixture was added dropwise to a mixture of 7 ml of 1,3-dibromopropane and 10 ml of dimethylformamide under cooling with ice. The mixture was stirred for 10 minutes at room temperature and extracted with benzene. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated. The residue was subjected to column chromatography on silica gel to produce 3.5 g of 1-(3'-bromopropyl)-5-cyano-3-phenylindazole (recrystallization from ethanol provided a m.p. of 100° to 102° C.).

reactant | 5-cyano-3-phenylindazole | 4.2 g | C(#N)C=1C=C2C(=NNC2=CC1)C1=CC=CC=C1 | C14H9N3
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | 1,3-dibromopropane | 7 ml | BrCCCBr | C3H6Br2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(3'-bromopropyl)-5-cyano-3-phenylindazole | 3.5 g | BrCCCN1N=C(C2=CC(=CC=C12)C#N)C1=CC=CC=C1 | C17H14BrN3
